US07772268B2
1-(2,6-Dimethylmorpholine-4-carbonyl)-6-fluoro-1H-indazol-3-yl 2,6-dimethyl-morpholine-4-carboxylate
In analogy to example 1, 200 mg (1.315 mmol) of 6-fluoro-1H-indazol-3-ol were reacted with 280.3 mg (1.578 mmol) of 2,6-dimethylmorpholine-4-carbonyl chloride. Yield: 16 mg (3%), M+H+: 435.29.

reactant | 6-fluoro-1H-indazol-3-ol | 1.315 mmol, 200 mg | FC1=CC=C2C(=NNC2=C1)O | C7H5FN2O
reactant | 2,6-dimethylmorpholine-4-carbonyl chloride | 1.578 mmol, 280.3 mg | CC1CN(CC(O1)C)C(=O)Cl | C7H12ClNO2
product | 1-(2,6-Dimethylmorpholine-4-carbonyl)-6-fluoro-1H-indazol-3-yl 2,6-dimethyl-morpholine-4-carboxylate | CC1CN(CC(O1)C)C(=O)OC1=NN(C2=CC(=CC=C12)F)C(=O)N1CC(OC(C1)C)C | C21H27FN4O5
